Op amp
*SPICE Netlist generated by Advanced Sim server on 2017/3/23 22:54:27

*Schematic Netlist:
R1 IN3 INN 24.9K
R2 INN OUT 10K
R3 IN4 INN 34.8K
R4 0 INN 4.99K
R5 IN1 INP 4.99K
R6 IN2 INP 15K
R7 0 INP 10K
XU1A INP INN VCC VEE OUT TL082
XU1B NetU1_5 NetU1_6 VCC VEE NetU1_7 TL082
V1 IN1 0 DC 0 SIN(0 1 1K 0 0 0) AC 0 0
V2 IN2 0 DC 0 SIN(0 1 3K 0 0 0) AC 1 0
V3 IN3 0 DC 0 SIN(0 1 5K 0 0 180) AC 0 0
V4 IN4 0 DC 0 SIN(0 1 7K 0 0 180) AC 0 0
VEE 0 VEE 15V
VQQ VCC 0 15V

.SAVE 0 IN1 IN2 IN3 IN4 INN INP NetU1_5 NetU1_6 NetU1_7 OUT VCC VEE V1#branch
.SAVE V2#branch V3#branch V4#branch VEE#branch VQQ#branch @V1[z] @V2[z] @V3[z] @V4[z]
.SAVE @VEE[z] @VQQ[z] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i] @R6[i] @R7[i] @R1[p] @R2[p]
.SAVE @R3[p] @R4[p] @R5[p] @R6[p] @R7[p] @V1[p] @V2[p] @V3[p] @V4[p] @VEE[p] @VQQ[p]

*PLOT TRAN -1 1 A=IN1
*PLOT OP -1 1 A=IN1

*Selected Circuit Analyses:
.TRAN 2.857E-7 0.005 0 2.857E-7
.OP

*Models and Subcircuits:
.SUBCKT TL082 1   2   3   4   5
C1   11 12 3.498E-12
C2    6  7 15E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
BGND 99  0 V=V(3)*.5 + V(4)*.5
BB    7 99 I=I(VB)*4.715E6 - I(VC)*5E6 + I(VE)*5E6 + I(VLP)*5E6 - I(VLN)*5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.2
VE   54  4 DC 2.2
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=15E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL082

.END
